US05366987
(c) 3-Dodecyl-5-(phenylmethyl)isoxazole
To a room temperature, stirred solution of 3-phenyl-1-propyne (54.86 g, 0.4723 mol) and phenyl isocyanate (104 mL, 0.957 mol) in benzene (800 mL) under nitrogen was added dropwise over 30 minutes a solution of 1-nitrotridecane (109.14 g, 0.47583 mol) and triethylamine (6.7 mL, 0.048 mol) in benzene (400 mL), and the mixture was stirred for 1 hour. The mixture was refluxed for 6 hours, allowed to cool, and chilled. The solids were filtered off and the filtrate rotoevaporated to an oil. The oil was chromatographed on silica gel (1.4 kg, 230-400 mesh) using petroleum ether-ether (25:1, 15×1 L), and product fractions rotoevaporated to give an off-white solid; yield 96.1 g (62%), mp 45°-47° C.

reactant | 3-phenyl-1-propyne | 0.4723 mol, 54.86 g | C1(=CC=CC=C1)CC#C | C9H8
reactant | phenyl isocyanate | 0.957 mol, 104 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1-nitrotridecane | 0.47583 mol, 109.14 g | [N+](=O)([O-])CCCCCCCCCCCCC | C13H27NO2
reactant | triethylamine | 0.048 mol, 6.7 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 800 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 400 mL | C1=CC=CC=C1 | C6H6
product | 3-Dodecyl-5-(phenylmethyl)isoxazole | C(CCCCCCCCCCC)C1=NOC(=C1)CC1=CC=CC=C1 | C22H33NO
